US20010004639A1
A. Preparation of 4-[2-(Ethoxycarbonyl)vinyl]phenylacetic Acid
To a stirred solution of 4-bromophenylacetic acid (43.0 g, 200 mmol) in dimethyl formamide (400 mL) in a round bottom flask under nitrogen atmosphere at room temperature was added ethyl acrylate (43.3 mL, 400 mmol), palladium diacetate (0.90 g, 4 mmol), triphenylphosphine (2.10 g, 8 mmol), and diisopropylethylamine (87.2 mL, 500 mmol). The reaction mixture was heated to 100° C. for 43 hours, cooled to room temperature, and hydrochloric acid (1N, 1 L) was added. To the reaction mixture was added ethyl acetate (500 mL), the aqueous layer was extracted with ethyl acetate (2 x 500 mL), and the combined organic layers washed with hydrochloric acid (1N, 500 mL), water (500 mL) and saturated sodium chloride solution (250 mL), then dried over sodium sulfate, filtered and evaporated in vacuo to provide the title compound as a mixture of cis and trans isomers (46.9 g, 100%).

reactant | 4-bromophenylacetic acid | 200 mmol, 43.0 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | ethyl acrylate | 400 mmol, 43.3 mL | C(C=C)(=O)OCC | C5H8O2
reactant | triphenylphosphine | 8 mmol, 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylethylamine | 500 mmol, 87.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 1N, 1 L | Cl | ClH
solvent | dimethyl formamide | 400 mL | CN(C=O)C | C3H7NO
catalyst | palladium diacetate | 4 mmol, 0.90 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 4-[2-(Ethoxycarbonyl)vinyl]phenylacetic Acid | C(C)OC(=O)C=CC1=CC=C(C=C1)CC(=O)O | C13H14O4
